US08198453B2
To a suspension of NaH (7.44 g, 161 mmol) in anhydrous DMF (50 mL) at 0-5° C. was added dropwise a solution of (R)-tert-butyl 3-((R)-(3-chlorophenyl)(hydroxy)methyl)piperidine-1-carboxylate (17.45 g, 54 mmol) in anhydrous DMF (100 mL), the reaction mixture was stirred for 1 hr at rt. A solution of ethyl bromoacetate (17.82 g, 11.87 mL, 107 mmol) in anhydrous DMF (100 mL) was added dropwise to the above mixture at 0-5° C. After addition, the reaction mixture was stirred for 2-3 hr at rt. The reaction mixture was poured into saturated aqueous NH4Cl and EtOAc (1000 mL) was added. The organic layer was washed with water (3×200 mL) and brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified on silica gel chromatography to afford (R)-tert-butyl 3-((R)-(3-chlorophenyl)(2-ethoxy-2-oxoethoxy)methyl)piperidine-1-carboxylate (14 g, 64% yield).

reactant | NaH | 161 mmol, 7.44 g | [H-].[Na+]
reactant | (R)-tert-butyl 3-((R)-(3-chlorophenyl)(hydroxy)methyl)piperidine-1-carboxylate | 54 mmol, 17.45 g | ClC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)O | C17H24ClNO3
reactant | ethyl bromoacetate | 107 mmol, 11.87 mL, 17.82 g | BrCC(=O)OCC | C4H7BrO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 1000 mL | CCOC(=O)C | C4H8O2
product | (R)-tert-butyl 3-((R)-(3-chlorophenyl)(2-ethoxy-2-oxoethoxy)methyl)piperidine-1-carboxylate | 14 g, 64% yield | ClC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCC(=O)OCC | C21H30ClNO5
